US08471005B2
Into a 1-Neck round-bottom flask was added 4-(3-Methoxy-4-nitro-phenyl)-1,2,3,6-tetrahydro-pyridine; hydrochloride (364 mg, 1.34 mmol) (generated by 4N HCl treatment of the 450 mg of BOC precursor for 1 h), 4-(2-Bromo-acetyl)-piperazine-1-carboxylic acid tert-butyl ester (413.0 mg, 1.345 mmol) and cesium carbonate (1095 mg, 3.362 mmol) in acetonitrile (10 mL, 200 mmol). The reaction was stirred overnight at reflux. The reaction mixture was cooled to RT, diluted with water and was extracted (twice) from EtOAc. Combined organic was washed with brine and was dried over MgSO4. After solvent evaporation and flash chromatography (ISCO, EtOAC: MeOH 98:2), the product, 4-{2-[4-(3-Methoxy-4-nitro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-acetyl}-piperazine-1-carboxylic acid tert-butyl ester, was isolated as a gum/solid (301 mg, 49%). NMR 1H (DMSO-d6)-7.86 (d, 1H, J=8.54 Hz), 7.29 (s, 1H), 7.17 (d, 1H, J=8.58 Hz), 6.44 (s, 1H), 3.96 (s, 3H), 3.52 (br s, 2H), 3.44 (br s, 2H), 3.32 m with the water peak, 8H), 3.30 (m, 2H).

reactant | 4-(3-Methoxy-4-nitro-phenyl)-1,2,3,6-tetrahydro-pyridine | COC=1C=C(C=CC1[N+](=O)[O-])C=1CCNCC1 | C12H14N2O3
reactant | hydrochloride | 1.34 mmol, 364 mg | Cl | ClH
reactant | HCl | 4N | Cl | ClH
reactant | 4-(2-Bromo-acetyl)-piperazine-1-carboxylic acid tert-butyl ester | 1.345 mmol, 413.0 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CBr)=O | C11H19BrN2O3
reactant | cesium carbonate | 3.362 mmol, 1095 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetonitrile | 200 mmol, 10 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 4-{2-[4-(3-Methoxy-4-nitro-phenyl)-3,6-dihydro-2H-pyridin-1-yl]-acetyl}-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CN1CCC(=CC1)C1=CC(=C(C=C1)[N+](=O)[O-])OC)=O | C23H32N4O6
